US03952001
A mixture of 10.2 g. 3-pentylsulphonyl-1,2,4-triazole, 8.2 g. diallylcarbamoyl chloride, 75 ml. dry tetrahydrofuran and 7.5 ml. dry triethylamine was refluxed under anhydrous conditions for 1.5 hours. The reaction mixture was worked up as described in Example 1, using ether in place of methylene dichloride. An oily residue was obtained which was distilled under reduced pressure to give a product, b.p. 193° - 194°C./0.25 mm., which solidified on cooling. This product was recrystallized from petroleum ether (b.p. 60° - 80°C.) to give 1-diallylcarbamoyl-3-n-pentylsulphonyl-1,2,4-triazole, m.p. 28° - 30°C. Elemental analysis satisfactory.

reactant | 3-pentylsulphonyl-1,2,4-triazole | C(CCCC)S(=O)(=O)C1=NNC=N1 | C7H13N3O2S
reactant | diallylcarbamoyl chloride | C(C=C)N(C(=O)Cl)CC=C | C7H10ClNO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | 1-diallylcarbamoyl-3-n-pentylsulphonyl-1,2,4-triazole | C(C=C)N(C(=O)N1N=C(N=C1)S(=O)(=O)CCCCC)CC=C | C14H22N4O3S
